US04094870
To a solution of 11.5 g of 1,3-dihydro-5-(2-chlorophenyl)-7-chloro-2H-1,4-benzodiazepine-2-thione in 100 ml of anhydrous dimethylformamide is added under ice cooling with stirring 2.1 g of sodium hydride (50% oily suspension), and the resulting mixture is stirred at 30° C. for 1 hour. To the mixture is added dropwise a solution of 12.5 g of 1-chloro-3-[4-(2-methoxyphenyl)-1-piperazinyl]propane hydrochloride in 50 ml of dimethylformamide over a period of 15 minutes, and the resulting mixture is stirred at room temperature for 3 hours. The reaction mixture is poured into iced water and extracted with ethyl acetate. The extract is washed with water and dried over magnesium sulfate and, thereafter, the solvent is distilled off under reduced pressure to obtain an oily 2-[3-[4-(2-methoxyphenyl)-1-piperazinyl]propylthio]-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine. The oily product thus obtained is treated, according to usual procedure, with fumaric acid and recrystallized from isopropyl alcohol to obtain 10.5 g of 2-[3-[4-(2-methoxyphenyl)-1-piperazinyl]propylthio]-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine fumarate, m.p. 189°-191° C.

reactant | 1,3-dihydro-5-(2-chlorophenyl)-7-chloro-2H-1,4-benzodiazepine-2-thione | 11.5 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C=C2)Cl)=S | C15H10Cl2N2S
reactant | sodium hydride | 2.1 g | [H-].[Na+]
reactant | 1-chloro-3-[4-(2-methoxyphenyl)-1-piperazinyl]propane hydrochloride | 12.5 g | Cl.ClCCCN1CCN(CC1)C1=C(C=CC=C1)OC
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-[3-[4-(2-methoxyphenyl)-1-piperazinyl]propylthio]-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine | COC1=C(C=CC=C1)N1CCN(CC1)CCCSC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl | C29H30Cl2N4OS
